US06809195B1
Preparation of Dimethylthiuram Disulfide
In a 4-litter bottle equipped with a mechanical stirrer, sodium hydroxide (80 g, 2 mol) was dissolved in water (500 mL) and the solution was cooled to 0° C. (ice-water bath). THF (200 mL), methylamine (40% in water, 170 mL, 2 mol) and carbon disulfide (120 mL, 2 mol) were added and the mixture as stirred at 0° C. for 30 minutes. Crushed ice (1.5 kg) was added, followed by glacial acetic acid (300 mL). Hydrogen peroxide (30%, 100 mL, 1 mol) was added dropwise over 10 minutes with temperature maintained below 50° C. by adding ice with stirring. Hexanes (or heptane) (800 mL) was added and the mixture was stirred for another 30 minutes in an ice-water bath. The mixture was filtered and washed with aqueous trichloroacetic acid (2%, 5×200 mL) and hexanes (or heptane) (2×200 mL). The product was dried in air for 1 day to a constant weight to give an off-white solid (205.8, yield: 97%). M.p. 98-100° C. (dec.)

reactant | sodium hydroxide | 2 mol, 80 g | [OH-].[Na+]
reactant | methylamine | 2 mol, 170 mL | CN | CH5N
reactant | carbon disulfide | 2 mol, 120 mL | C(=S)=S | CS2
reactant | Hydrogen peroxide | 1 mol, 100 mL | OO | H2O2
solvent | water | 500 mL | O | H2O
solvent | heptane | CCCCCCC | C7H16
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Dimethylthiuram Disulfide | yield: 97% | CNC(SSC(NC)=S)=S | C4H8N2S4
